*
* SPLIFFTOWN 4000 XL
*

Eg    1 0   2.83
Rbsc  1 2   4.9
Lbsc  1 2   1.4m 0.36
L1    2 3   0.8m 0.22
C1    3 0   22u
R1    3 4   6
C3    4 0   22u
LeW   3 5   0.96m 5.7
TlW   5 6   10.1

TrW   6 0   1
RrmsW 6 0   1.25
CmmsW 6 0   50.5m
LcmsW 6 0   0.95m
GlW   6 0   350cm²

GrW   7 0  350cm²
Box   7 8   37L
ZrW1  8 9  350cm² ai
ZrW2  9 0  350cm² ai

RbT   1 11  3.25
C4    11 12 5.6u
L2    12 0  0.36m 0.14
R3    12 0  18
ReT   12 13 4.7
LeT   13 14 0.006m
TlT   14 0  3.5

TrT   15 0  1
RrmsT 15 0  2.4390
CmmsT 15 0  0.45m
LcmsT 15 0  0.23m
GlT   15 0  8cm²

GrT   16 0  8cm²
ZrT1  16 17 8cm² ai
ZrT2  17 0  8cm² ai


* set logscale x
* set mxtics
* set mytics
* set style line 12 lc rgb '#ddccdd' lt 1 lw 1.5
* set style line 13 lc rgb '#ddccdd' lt 1 lw 0.5
* set grid xtics mxtics ytics mytics back ls 12, ls 13
* plot [16:40000] [40:100] 'plop.txt' using 1:2 title 'sum' with lines, 'plop.txt' using 1:3 title 'woofer' with lines, 'plop.txt' using 1:4 title 'tweeter' with lines

! frequency response /1m
*. F .
*. 1 2 FREEAIR
*. DUP IZrW1 IZrT1 + * DBSPL .
*. DUP IZrW1        * DBSPL .
*.     IZrT1        * DBSPL .

! phase delay
*. F DUP .
*. 1 SWAP / 1000 * DUP NEG . .
*. 
*. IZrW1 ARG PDELAY 1000 * .
*. IZrT1 ARG PDELAY 1000 * .
*. IZrW1 ARG .

! group delay
. >>> F <<< F - 2 PI * * 1000 /
. DUP
. F DUP .
. 1 SWAP / 1000 * DUP NEG . .
. >>> IZrW1 ARG <<< IZrW1 ARG ANGLE SWAP / NEG .
. >>> IZrT1 ARG <<< IZrT1 ARG ANGLE SWAP / NEG .
. IZrW1 ARG .
